US04808597
4-[(E)-2-(N-Acetyl-4,4-dimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoic Acid
To a solution of 0.1 g (0.265 mmol) of methyl 4[(E)-2-(N-acetyl-4,4-dimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoate in 10 ml of dioxane was added, with stirring, 0.8 ml (1.6 mmol) of 2N sodium hydroxide, with the temperature maintained at 25° C. Stirring was continued for 48 hours, and then the reaction mixture was diluted with 25 ml of water. It was then acidified to pH 2 with 2N hydrochloric acid and extracted with dichloromethane. The combined extracts were dried using sodium sulfate and then evaporated in vacuo to give the title compound as a white solid. The solid was recrystallized from methanol-hexane to give 70 mg of the title compound, mp 200°-202° C.

reactant | methyl 4[(E)-2-(N-acetyl-4,4-dimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoate | 0.265 mmol, 0.1 g | C(C)(=O)N1CCC(C2=CC(=CC=C12)/C(=C/C1=CC=C(C(=O)OC)C=C1)/C)(C)C | C24H27NO3
reactant | sodium hydroxide | 1.6 mmol, 2N, 0.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | 4-[(E)-2-(N-Acetyl-4,4-dimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoic Acid | C(C)(=O)N1CCC(C2=CC(=CC=C12)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)(C)C | C23H25NO3
